US08530517B2
A solution of (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester (120 mg, 0.309 mmol) in 1 ml of anhydrous DMF, was dropped into a 1 ml suspension of NaH (14.8 mg, 0.371 mmol, 60% in mineral oil) in anhydrous DMF (0.3 ml) at 0° C. The resulting red solution was stirred at RT for 30 min, then MEM-Cl (46 mg, 0.371 mmol) was added. After stirring overnight at RT, iced water was added and the mixture was extracted several times with EtOAc. The combined organic phases were dried over Na2SO4, filtered and concentrated under vacuo. The resulting crude product was purified on silica gel (acetone:hexane 15:85) to obtain (E)-3-[3′-adamantan-1-yl-4′-(2-methoxyethoxymethoxy)-biphenyl-4-yl]-acrylic acid methyl ester (123 mg, 84%).

reactant | (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester | 0.309 mmol, 120 mg | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C26H28O3
reactant | NaH | 0.371 mmol, 14.8 mg | [H-].[Na+]
reactant | MEM-Cl | 0.371 mmol, 46 mg | C(OCCOC)Cl | C4H9ClO2
reactant | water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | (E)-3-[3′-adamantan-1-yl-4′-(2-methoxyethoxymethoxy)-biphenyl-4-yl]-acrylic acid methyl ester | 123 mg, 84% | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)OCOCCOC)C12CC3CC(CC(C1)C3)C2)=O | C30H36O5
